US07132419B2
4-(N-Hydroxycarbamimidoyl)-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
A mixture of 4-cyano-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (20 mg), potassium carbonate (37 mg) and hydroxylamine hydrochloride (19 mg) was heated to reflux in ethanol (5 mL) for 18 hours. The reaction mixture was filtered, and the filtrate was collected and the solvent removed in vacuo to yield the title compound (20 mg).

reactant | 4-cyano-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 20 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4C#N)C | C22H19N5O
reactant | potassium carbonate | 37 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 19 mg | Cl.NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(N-Hydroxycarbamimidoyl)-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 20 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4C(NO)=N)C | C22H22N6O2
